US06054448
ii) Diethyl 3,3-diphenyl-1-(methylthio)propylphosphonate
A solution of n-butyl lithium (2.5M in n-hexane, 132 ml, 33 mmol) was added dropwise over 10 minutes to a stirred solution of diethyl 3,3-diphenylpropylphosphonate (9.96 g, 30 mmol) in dry tetrahydrofuran (100 ml) cooled to -60° C. under nitrogen atmosphere. After 20 minutes at -60° C. a solution of dimethyl disulphide (2.96 ml, 33 mmol) in dry tetrahydrofuran (5 ml) was added in one portion turning the solution colour from orange to pale yellow immediately. After 30 minutes at -60° C., water (200 ml) was added and the mixture extracted with diethyl ether (2×100 ml). The ether extracts were washed with saturated aqueous sodium bicarbonate (2×100 ml), brine solution (100 ml), dried, filtered and evaporated to a yellow oil (13 g). Chromatography on flash silica eluting with diethyl ether gave the title product as a colourless oil.

reactant | n-butyl lithium | 33 mmol, 2.5M, 132 ml | C(CCC)[Li]
reactant | diethyl 3,3-diphenylpropylphosphonate | 30 mmol, 9.96 g | C1(=CC=CC=C1)C(CCP(OCC)(OCC)=O)C1=CC=CC=C1 | C19H25O3P
reactant | dimethyl disulphide | 33 mmol, 2.96 ml | CSSC | C2H6S2
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Diethyl 3,3-diphenyl-1-(methylthio)propylphosphonate | C1(=CC=CC=C1)C(CC(SC)P(OCC)(OCC)=O)C1=CC=CC=C1 | C20H27O3PS
